US05631262
22(a). 2-(2-Carboxymethylethanyl)-3-[8-(4-methoxyphenyl)-octyloxy]-6-hydroxymethylpyridine
2-(E-2-Carboxymethyl-ethenyl)-3-[8-(4-methoxyphenyl)octyloxy]-6-hydroxymethylpyridine (300 mg, 0.702 mmol) was dissolved in MeOH (3 mL) and treated with 5% Pd--C catalyst (30 mg). The reaction was stirred under an atmosphere of H2 (balloon pressure) for 5 hours. The reaction was diluted with CH2Cl2, and filtered through Celite, and concentrated. Purification by flash column chromatography (silica, EtOAc:CH2Cl2 :hexane, 25:50:25) gave a pale yellow oil: 1H NMR (250 MHz, CDCl3) δ 7.09 (m, 4H, phenyl, pyridyl), 6.80 (d, J=8.6 Hz, 2H, phenyl), 4.62 (s, 2H, CH2), 3.93 (t, J=6.5 Hz, 2H, OCH2), 3.77 (s, 3H, OCH3), 3.68 (s, 3H, methyl ester), 3.16 (dd, J=7.3, 7.2 Hz, 2H, CH2), 2.77 (dd, J=7.3, 7.2 Hz, 2H, CH2), 2.54 (t, J=7.6 Hz, 2H, benzylic), 1.79 (m, 2H, CH2), 1.57 (m, 2H, CH2), 1.44 (m, 2H, CH2), 1.34 (m, 6H, aliphatic); MS (CI): 430.2 (M+H).

reactant | 2-(E-2-Carboxymethyl-ethenyl)-3-[8-(4-methoxyphenyl)octyloxy]-6-hydroxymethylpyridine | 0.702 mmol, 300 mg | C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCCCCCC1=CC=C(C=C1)OC)CO | C25H33NO5
solvent | MeOH | 3 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(2-Carboxymethylethanyl)-3-[8-(4-methoxyphenyl)-octyloxy]-6-hydroxymethylpyridine | C(=O)(O)CCCC1=NC(=CC=C1OCCCCCCCCC1=CC=C(C=C1)OC)CO | C25H35NO5
